US08748348B2
1.7a: Ethyl (2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-carbamate
A mixture of 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one (2.0 g, 7.8 mmol) and ethyl chloroformate (1.14 g, 10.5 mmol) in dry toluene was heated to reflux for 2 hours. The mixture was evaporated to dryness to obtain a brown solid. Column chromatography (silica, EtOAc: heptane, 1:3) gave the product (1.04 g), which was used without further purification in the next step 1.8a.

reactant | 6-amino-2,2,7-trifluoro-4-(prop-2-ynyl)-2Hbenzo[b][1,4]oxazin-3(4H)-one | 7.8 mmol, 2.0 g | NC1=CC2=C(OC(C(N2CC#C)=O)(F)F)C=C1F | C11H7F3N2O2
reactant | ethyl chloroformate | 10.5 mmol, 1.14 g | ClC(=O)OCC | C3H5ClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | heptane | CCCCCCC | C7H16
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Ethyl (2,2,7-trifluoro-3-oxo-4-prop-2-ynyl-3,4-dihydro-2H-benzo[1,4]oxazin-6-yl)-carbamate | 1.04 g | FC1(OC2=C(N(C1=O)CC#C)C=C(C(=C2)F)NC(OCC)=O)F | C14H11F3N2O4
